US07842688B2
a) Benzyl 3-(2-{2-[2-(hydroxymethylcarbamoyl)ethyl]phenoxy}ethoxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate
A solution of 0.136 g of benzyl 3-{2-[2-(2-carboxyethyl)phenoxy]ethoxy}-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate in 3 ml of dichloromethane is admixed with 0.01 ml of N,N-dimethylformamide and 0.034 ml of oxalyl chloride and stirred at room temperature over 2 hours. The reaction mixture is concentrated by evaporation, and the residue is dissolved in 3 ml of tetrahydrofuran, cooled to 0° C. and added dropwise to the suspension of 0.033 g of N-methylhydroxylamine hydrochloride and 0.11 ml of triethylamine in a 4:1 tetrahydrofuran/water mixture (2 ml). The reaction mixture is stirred at room temperature over 14 hours, diluted with ethyl acetate, washed successively with 1N HCl, 1M aqueous sodium hydrogencarbonate solution and brine, dried over sodium sulphate and concentrated by evaporation. The title compound is obtained as a colourless oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.40 (200:20:1 dichloromethane-methanol-25% conc. ammonia); Rt=5.53.

reactant | benzyl 3-{2-[2-(2-carboxyethyl)phenoxy]ethoxy}-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 0.136 g | C(=O)(O)CCC1=C(OCCOC2CN(CCC2C2=CC=C(C=C2)OCCCOCC2=C(C=CC=C2)OC)C(=O)OCC2=CC=CC=C2)C=CC=C1 | C41H47NO9
reactant | N,N-dimethylformamide | 0.01 ml | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 0.034 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | Benzyl 3-(2-{2-[2-(hydroxymethylcarbamoyl)ethyl]phenoxy}ethoxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | OCNC(=O)CCC1=C(OCCOC2CN(CCC2C2=CC=C(C=C2)OCCCOCC2=C(C=CC=C2)OC)C(=O)OCC2=CC=CC=C2)C=CC=C1 | C42H50N2O9
